US04581220
N,N-diisononylpyrazine-2-carboxamide was prepared from pyrazine-2-carboxylic acid and commercial di-isononylamine using the general method of Example 11. The product had a boiling range of 163°-165° C. at 0.15 mm of mercury pressure.

reactant | pyrazine-2-carboxylic acid | N1=C(C=NC=C1)C(=O)O | C5H4N2O2
reactant | di-isononylamine | C(CCCCCC(C)C)NCCCCCCC(C)C | C18H39N
product | N,N-diisononylpyrazine-2-carboxamide | C(CCCCCC(C)C)N(C(=O)C1=NC=CN=C1)CCCCCCC(C)C | C23H41N3O
